US08183245B2
benzyl trans-3-fluoro-4-hydroxypiperidine-1-carboxylate (56.9 g, 0.225 mol) was hydrogenated in the presence of Pd(OH)2/C and Boc2O (51.43 g, 0.236 mol) under 35 psi of hydrogen at room temperature in methanol. The reaction was monitored by TLC (EtOAc/petroleum ether=1:2). Upon completion, the reaction mixture was filtered and the filtrate was concentrated in vacuum to give a white solid that was re-crystallized from petroleum ether/methanol to afford tert-butyl trans-3-fluoro-4-hydroxypiperidine-1-carboxylate. LRMS (ESI) calculated for C10H18FNO3 [M+H]+, 220.1; found 219.7.

reactant | benzyl trans-3-fluoro-4-hydroxypiperidine-1-carboxylate | 0.225 mol, 56.9 g | F[C@@H]1CN(CC[C@H]1O)C(=O)OCC1=CC=CC=C1 | C13H16FNO3
reactant | Boc2O | 0.236 mol, 51.43 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | tert-butyl trans-3-fluoro-4-hydroxypiperidine-1-carboxylate | F[C@@H]1CN(CC[C@H]1O)C(=O)OC(C)(C)C | C10H18FNO3
